US07723331B2
f) 2-(4-Methoxyphenyl)-6-[(6-{[(2S)-1-methylpiperidin-2-yl]methoxy}pyridin-2-yl)methyl]thieno[2,3-d]pyridazin-7(6H)-one
To a solution of 2-(4-methoxyphenyl)-6-({6-[(2S)-piperidin-2-ylmethoxy]pyridin-2-yl}methyl)thieno[2,3-d]pyridazin-7(6H)-one (290 mg, 0.627 mmol) in MeOH/DCM 1:1(15 ml), were added (polystyrylmethyl)trimethylammonium cyanoborohydride (460 mg, 1.881 mmol, 4.1 mmol/g) and formaldehyde (100 μl, 1.25 mmol) followed by AcOH (one drop). After stirring at rt. for 3 h the resin was filtered off and washed with MeOH. The filtrate was collected and evaporated in vacuo. Purification by silica gel flash chromatography using a 25+M Biotage column with EtOAc/MeOH/TEA 100:10:1 gave the title compound as a light yellow solid. Yield: 201 mg (67%). 1H NMR (400 MHz, CDCl3) δ 8.18 (s, 1H), 7.61 (m, 2H), 7.47 (t, 1H, J=7.8 Hz), 7.34 (s, 1H), 6.96 (m, 2H), 6.71 (d, 1H, J=7.3 Hz), 6.63 (d, 1H, J=8.3 Hz), 5.47 (s, 2H), 4.26 (m, 2H), 3.84 (s, 3H), 2.81 (dt, 1H, J=11.5 Hz, J=3.1 Hz), 2.27 (s, 3H), 2.11 (m, 1H), 2.02 (m, 1H), 1.66 (m, 2H), 1.54 (m, 2H), 1.42 (m, 1H), 1.20 (m, 1H). 13C NMR (400 MHz, CDCl3) δ 163.7, 161.1, 157.4, 153.94, 153.88, 140.5, 139.2, 135.4, 133.3, 128.3, 125.5, 117.2, 114.9, 114.2, 110.1, 67.8, 63.1, 57.5, 55.8, 55.6, 43.6, 29.5, 26.0, 24.3. MS (ESI+) 477.25 (M+1H+)

reactant | 2-(4-methoxyphenyl)-6-({6-[(2S)-piperidin-2-ylmethoxy]pyridin-2-yl}methyl)thieno[2,3-d]pyridazin-7(6H)-one | 0.627 mmol, 290 mg | COC1=CC=C(C=C1)C1=CC2=C(C(N(N=C2)CC2=NC(=CC=C2)OC[C@H]2NCCCC2)=O)S1 | C25H26N4O3S
reactant | formaldehyde | 1.25 mmol, 100 μl | C=O | CH2O
solvent | MeOH DCM | 15 ml | CO.C(Cl)Cl
catalyst | AcOH | one drop | CC(=O)O | C2H4O2
product | 2-(4-Methoxyphenyl)-6-[(6-{[(2S)-1-methylpiperidin-2-yl]methoxy}pyridin-2-yl)methyl]thieno[2,3-d]pyridazin-7(6H)-one | COC1=CC=C(C=C1)C1=CC2=C(C(N(N=C2)CC2=NC(=CC=C2)OC[C@H]2N(CCCC2)C)=O)S1 | C26H28N4O3S
